US07985862B2
5-chloro-2-imino-1-[3-(methylsulfinyl)benzyl]-1,2-dihydropyridine-3-carboxamide hydrochloride
To a suspension of 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide (1.0 g) in methanol (10 ml) was added a solution of 1-[3-(methylsulfinyl)phenyl]methanamine hydrochloride (1.8 g) and triethylamine (2.4 ml) in methanol (5 ml) at room temperature, and the mixture was stirred overnight at 50° C. The reaction solvent was evaporated under reduced pressure, acetic acid (5 ml) was added, and the mixture was stirred at 50° C. for 2 hr. The solvent was evaporated under reduced pressure, the residue was partitioned with ethyl acetate, 1N aqueous sodium hydroxide solution and aqueous sodium bicarbonate, and the organic layer was dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate:hexane=7:3→1:0). 4N Hydrochloride-ethyl acetate solution (1 ml) was added to the obtained yellow oil, and the precipitated crystals were collected by filtration, and recrystallized to give the title compound (270 mg).

reactant | 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide | 1.0 g | C(#N)C(C(=O)N)C1OC(C(=C1Cl)Cl)=O | C7H4Cl2N2O3
reactant | 1-[3-(methylsulfinyl)phenyl]methanamine hydrochloride | 1.8 g | Cl.CS(=O)C=1C=C(C=CC1)CN
reactant | triethylamine | 2.4 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 5-chloro-2-imino-1-[3-(methylsulfinyl)benzyl]-1,2-dihydropyridine-3-carboxamide hydrochloride | 270 mg | Cl.ClC=1C=C(C(N(C1)CC1=CC(=CC=C1)S(=O)C)=N)C(=O)N | InChI=1S/C14H14ClN3O2S.ClH/c1-21(20)11-4-2-3-9(5-11)7-18-8-10(15)6-12(13(18)16)14(17)19;/h2-6,8,16H,7H2,1H3,(H2,17,19);1H
